.title kicad schematic

* u20 1/y3 net-_u20-pad2_ adc_bridge_1
* u10 1/y3 plot_v1
* u19 15/x3 net-_u19-pad2_ adc_bridge_1
* u9 15/x3 plot_v1
* u17 2/x2 net-_u17-pad2_ adc_bridge_1
* u18 3/y2 net-_u18-pad2_ adc_bridge_1
* u7 2/x2 plot_v1
* u8 3/y2 plot_v1
v10 1/y3 gnd pulse(5 0 0 10n 10n 2m 4m)
v9 15/x3 gnd pulse(5 0 0 10n 10n 2m 4m)
* u16 5/y1 net-_u16-pad2_ adc_bridge_1
* u6 5/y1 plot_v1
v7 2/x2 gnd pulse(5 0 0 10n 10n 2m 4m)
v8 3/y2 gnd pulse(0 5 0 10n 10n 1m 2m)
v6 5/y1 gnd pulse(0 5 0 10n 10n 2m 4m)
* u32 net-_u24-pad3_ net-_u25-pad3_ net-_u32-pad3_ d_xnor
* u28 net-_u17-pad2_ net-_u21-pad2_ net-_u28-pad3_ d_nor
* u30 net-_u19-pad2_ net-_u21-pad2_ net-_u30-pad3_ d_nor
* u29 net-_u18-pad2_ net-_u22-pad2_ net-_u29-pad3_ d_nor
* u31 net-_u20-pad2_ net-_u22-pad2_ net-_u31-pad3_ d_nor
* u35 net-_u30-pad3_ net-_u31-pad3_ net-_u35-pad3_ d_xnor
* u34 net-_u28-pad3_ net-_u29-pad3_ net-_u34-pad3_ d_xnor
* u25 net-_u14-pad2_ net-_u22-pad2_ net-_u25-pad3_ d_nor
* u33 net-_u26-pad3_ net-_u27-pad3_ net-_u33-pad3_ d_xnor
* u26 net-_u15-pad2_ net-_u21-pad2_ net-_u26-pad3_ d_nor
* u27 net-_u16-pad2_ net-_u22-pad2_ net-_u27-pad3_ d_nor
* u13 6/x0 net-_u13-pad2_ adc_bridge_1
* u2 14/b plot_v1
* u11 9/a net-_u11-pad2_ adc_bridge_1
* u12 14/b net-_u12-pad2_ adc_bridge_1
* u1 9/a plot_v1
* u3 6/x0 plot_v1
* u23 net-_u21-pad2_ net-_u22-pad2_ net-_u23-pad3_ d_nand
v5 4/x1 gnd pulse(5 0 0 10n 10n 1m 2m)
v4 7/y0 gnd pulse(5 0 0 10n 10n 2m 4m)
* u5 4/x1 plot_v1
* u14 7/y0 net-_u14-pad2_ adc_bridge_1
* u15 4/x1 net-_u15-pad2_ adc_bridge_1
* u4 7/y0 plot_v1
v1 9/a gnd pulse(5 0 0 10n 10n 2m 4m)
v2 14/b gnd pulse(5 0 0 10n 10n 1m 2m)
v3 6/x0 gnd pulse(5 0 0 10n 10n 4m 8m)
* u21 net-_u11-pad2_ net-_u21-pad2_ d_inverter
* u22 net-_u12-pad2_ net-_u22-pad2_ d_inverter
* u24 net-_u13-pad2_ net-_u21-pad2_ net-_u24-pad3_ d_nor
* u46 net-_u42-pad2_ 12/z3 dac_bridge_1
* u47 net-_u43-pad2_ 13/z3 dac_bridge_1
* u50 12/z3 plot_v1
* u51 13/z3 plot_v1
* u39 net-_u23-pad3_ net-_u35-pad3_ net-_u39-pad3_ d_nand
* u43 net-_u39-pad3_ net-_u43-pad2_ d_inverter
* u38 net-_u23-pad3_ net-_u34-pad3_ net-_u38-pad3_ d_nand
* u42 net-_u38-pad3_ net-_u42-pad2_ d_inverter
* u49 11/z1 plot_v1
* u45 net-_u41-pad2_ 11/z1 dac_bridge_1
* u48 10/z0 plot_v1
* u44 net-_u40-pad2_ 10/z0 dac_bridge_1
* u37 net-_u23-pad3_ net-_u33-pad3_ net-_u37-pad3_ d_nand
* u41 net-_u37-pad3_ net-_u41-pad2_ d_inverter
* u36 net-_u23-pad3_ net-_u32-pad3_ net-_u36-pad3_ d_nand
* u40 net-_u36-pad3_ net-_u40-pad2_ d_inverter
a1 [1/y3 ] [net-_u20-pad2_ ] u20
a2 [15/x3 ] [net-_u19-pad2_ ] u19
a3 [2/x2 ] [net-_u17-pad2_ ] u17
a4 [3/y2 ] [net-_u18-pad2_ ] u18
a5 [5/y1 ] [net-_u16-pad2_ ] u16
a6 [net-_u24-pad3_ net-_u25-pad3_ ] net-_u32-pad3_ u32
a7 [net-_u17-pad2_ net-_u21-pad2_ ] net-_u28-pad3_ u28
a8 [net-_u19-pad2_ net-_u21-pad2_ ] net-_u30-pad3_ u30
a9 [net-_u18-pad2_ net-_u22-pad2_ ] net-_u29-pad3_ u29
a10 [net-_u20-pad2_ net-_u22-pad2_ ] net-_u31-pad3_ u31
a11 [net-_u30-pad3_ net-_u31-pad3_ ] net-_u35-pad3_ u35
a12 [net-_u28-pad3_ net-_u29-pad3_ ] net-_u34-pad3_ u34
a13 [net-_u14-pad2_ net-_u22-pad2_ ] net-_u25-pad3_ u25
a14 [net-_u26-pad3_ net-_u27-pad3_ ] net-_u33-pad3_ u33
a15 [net-_u15-pad2_ net-_u21-pad2_ ] net-_u26-pad3_ u26
a16 [net-_u16-pad2_ net-_u22-pad2_ ] net-_u27-pad3_ u27
a17 [6/x0 ] [net-_u13-pad2_ ] u13
a18 [9/a ] [net-_u11-pad2_ ] u11
a19 [14/b ] [net-_u12-pad2_ ] u12
a20 [net-_u21-pad2_ net-_u22-pad2_ ] net-_u23-pad3_ u23
a21 [7/y0 ] [net-_u14-pad2_ ] u14
a22 [4/x1 ] [net-_u15-pad2_ ] u15
a23 net-_u11-pad2_ net-_u21-pad2_ u21
a24 net-_u12-pad2_ net-_u22-pad2_ u22
a25 [net-_u13-pad2_ net-_u21-pad2_ ] net-_u24-pad3_ u24
a26 [net-_u42-pad2_ ] [12/z3 ] u46
a27 [net-_u43-pad2_ ] [13/z3 ] u47
a28 [net-_u23-pad3_ net-_u35-pad3_ ] net-_u39-pad3_ u39
a29 net-_u39-pad3_ net-_u43-pad2_ u43
a30 [net-_u23-pad3_ net-_u34-pad3_ ] net-_u38-pad3_ u38
a31 net-_u38-pad3_ net-_u42-pad2_ u42
a32 [net-_u41-pad2_ ] [11/z1 ] u45
a33 [net-_u40-pad2_ ] [10/z0 ] u44
a34 [net-_u23-pad3_ net-_u33-pad3_ ] net-_u37-pad3_ u37
a35 net-_u37-pad3_ net-_u41-pad2_ u41
a36 [net-_u23-pad3_ net-_u32-pad3_ ] net-_u36-pad3_ u36
a37 net-_u36-pad3_ net-_u40-pad2_ u40
* Schematic Name:                             adc_bridge_1, Ngspice Name: adc_bridge
.model u20 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             adc_bridge_1, Ngspice Name: adc_bridge
.model u19 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             adc_bridge_1, Ngspice Name: adc_bridge
.model u17 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             adc_bridge_1, Ngspice Name: adc_bridge
.model u18 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             adc_bridge_1, Ngspice Name: adc_bridge
.model u16 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             d_xnor, Ngspice Name: d_xnor
.model u32 d_xnor(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_nor, Ngspice Name: d_nor
.model u28 d_nor(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_nor, Ngspice Name: d_nor
.model u30 d_nor(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_nor, Ngspice Name: d_nor
.model u29 d_nor(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_nor, Ngspice Name: d_nor
.model u31 d_nor(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_xnor, Ngspice Name: d_xnor
.model u35 d_xnor(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_xnor, Ngspice Name: d_xnor
.model u34 d_xnor(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_nor, Ngspice Name: d_nor
.model u25 d_nor(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_xnor, Ngspice Name: d_xnor
.model u33 d_xnor(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_nor, Ngspice Name: d_nor
.model u26 d_nor(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_nor, Ngspice Name: d_nor
.model u27 d_nor(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             adc_bridge_1, Ngspice Name: adc_bridge
.model u13 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             adc_bridge_1, Ngspice Name: adc_bridge
.model u11 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             adc_bridge_1, Ngspice Name: adc_bridge
.model u12 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             d_nand, Ngspice Name: d_nand
.model u23 d_nand(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             adc_bridge_1, Ngspice Name: adc_bridge
.model u14 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             adc_bridge_1, Ngspice Name: adc_bridge
.model u15 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u21 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u22 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_nor, Ngspice Name: d_nor
.model u24 d_nor(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             dac_bridge_1, Ngspice Name: dac_bridge
.model u46 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             dac_bridge_1, Ngspice Name: dac_bridge
.model u47 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             d_nand, Ngspice Name: d_nand
.model u39 d_nand(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u43 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_nand, Ngspice Name: d_nand
.model u38 d_nand(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u42 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             dac_bridge_1, Ngspice Name: dac_bridge
.model u45 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             dac_bridge_1, Ngspice Name: dac_bridge
.model u44 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             d_nand, Ngspice Name: d_nand
.model u37 d_nand(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u41 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_nand, Ngspice Name: d_nand
.model u36 d_nand(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u40 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
.tran 0.01e-03 4e-03 0e-03

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(1/y3)
plot v(15/x3)
plot v(2/x2)
plot v(3/y2)
plot v(5/y1)
plot v(14/b)
plot v(9/a)
plot v(6/x0)
plot v(4/x1)
plot v(7/y0)
plot v(12/z3)
plot v(13/z3)
plot v(11/z1)
plot v(10/z0)
.endc
.end
